US04710491
N-Glucopyranosyl-N-octadecyl-oleic acid amide
90 g of D-glucose and 135 g of octadecylamine were heated at 50° C. in 1,000 ml of 2-propanol and 500 ml of water, with stirring, until a clear solution was formed. The solution was then left at room temperature overnight. The product was now filtered off with suction, washed with alcohol and ether, dried and, finally, recrystallized from ethanol/THF. 10 g of this N-octadecyl-β-D-glucopyranosylamine were suspended in 80 ml of THF and, after addition of 10 g of sodium carbonate, 7 g of oleoyl chloride in 10 ml of THF were added dropwise. After quantitative reaction (TLC in CH2Cl2 /CH3OH=13/1), the product was worked up as described in Example 12. Column purification with the eluting agent CH2Cl2 /CH3OH=13/1.

reactant | D-glucose | 90 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | octadecylamine | 135 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | water | 500 ml | O | H2O
solvent | 2-propanol | 1,000 ml | CC(C)O | C3H8O
product | N-Glucopyranosyl-N-octadecyl-oleic acid amide | C1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCCCCCC | C42H81NO6
